US07829580B2
(d) (E)-3-{[1-(Methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
Sodium borohydride (830 mg) was added to a solution of (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one (21.46 g) in tetrahydrofuran (500 ml) at 0° C. After the mixture was stirred at 0° C. for 4 hours, it was filtered, and the filtrate was diluted with ethyl acetate. Then the reaction was quenched by addition of a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and the separated organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure and the residue was purified by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (1:2:1) as an eluent to afford the title compound (6.27 g, yield: 29%) as a pale yellow amorphous solid.

reactant | Sodium borohydride | 830 mg | [BH4-].[Na+]
reactant | (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 21.46 g | COC(=O)CN1N=NC=C1\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N4O3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (E)-3-{[1-(Methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 6.27 g, yield: 29% | COC(=O)CN1N=NC=C1\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N4O3
